US05801173
4-[N-(Ethoxycarbonyl)-4-piperidinyloxy]benzaldehyde
To a mixture of N-(ethoxycarbonyl)-piperidine-4-methanesulphonate (10 g) and 4-hydroxy benzaldehyde (5.8 g) in dry DMF (75 ml), K2CO3 (11 g) was added and the mixture was stirred at 80° C. for 12 h. At the end of this time, the reaction mixture was cooled, added water and extracted with EtOAc. The EtOAc extract was washed with 5% aqueous Na2CO3 solution followed by brine and dried over anhydrous sodium sulphate. The solvent was then removed by distillation under reduced pressure to give 7 g (63.6%) of the title compound as a semi solid.

reactant | N-(ethoxycarbonyl)-piperidine-4-methanesulphonate | 10 g | C(C)OC(=O)N1CCC(CC1)CS(=O)(=O)[O-]
reactant | 4-hydroxy benzaldehyde | 5.8 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | K2CO3 | 11 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 75 ml | CN(C)C=O | C3H7NO
product | 4-[N-(Ethoxycarbonyl)-4-piperidinyloxy]benzaldehyde | 7 g, 63.6% | C(C)OC(=O)N1CCC(CC1)OC1=CC=C(C=O)C=C1 | C15H19NO4
